data/oMe_Silver.jsonl
{"reaction_id": "NR-324_1-c1ccc(C(F)(F)F)cc1_2-C(F)(F)F_3-C(F)(F)F_4-OC_5-C1CC1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(C(F)(F)F)=C(C(F)(F)F)C(OC)C1CC1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C(C(F)(F)F)=C(C(F)(F)F)C(OC)(C1CC1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(C(F)(F)F)=C(C(F)(F)F)[C](OC)C1CC1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(C(F)(F)F)=C(C(F)(F)F)C(OC)(C1CC1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
{"reaction_id": "NR-309_1-C_2-CC_3-C_4-C#CC_5-CC_6-OC(=O)OC_7-P(C1CCCCC1)C2CCCCC2","level": "medium","name": "Trost Asymmetric Allylation Alkylation","reactants_smiles": ["CC(CC)=C(C)C(C#CC)(CC)(OC(=O)OC)","COC(=O)CC(=O)OC","[Pd]"],"products_smiles": ["COC(=O)C(C(=O)OC)C(C#CC)(CC)/C(C)=C(CC)(C)"],"conditions": "Chiral Ligand, Base, Pd","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "C(C)(CC)=C(C)C([Pd](OC(=O)OC)(P(C1CCCCC1)C2CCCCC2)(P(C1CCCCC1)C2CCCCC2))(C#CC)(CC)","step_weight": 0,"rationale": "Pd(0) undergoes oxidative addition to the allylic substrate due to the high reactivity of the allyl moiety and stabilization of the resulting π-allyl Pd(II) complex by conjugation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COC(=O)[CH-]C(=O)OC","step_weight": 0,"rationale": "The base deprotonates the methylene between two carbonyls, as the α-protons are strongly acidified by resonance stabilization of the resulting enolate."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "COC(=O)C(C(=O)OC)C(C#CC)(CC)/C1(C)[Pd](P(C1CCCCC1)C2CCCCC2)(P(C1CCCCC1)C2CCCCC2)C1(CC)(C)","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic π-allyl Pd complex, with chiral ligand control directing stereoselective C–C bond formation."},{"step": 4,"type": "dissociation","subtype": "dissociation","intermediate_smiles": "COC(=O)C(C(=O)OC)C(C#CC)(CC)/C(C)=C(CC)(C)","step_weight": 0,"rationale": "Product dissociates as Pd–C bond breaks, driven by the stability of the neutral organic product and regeneration of the active Pd(0) catalyst."}],"description": "The Pd-catalyzed asymmetric allylation proceeds via oxidative addition of the allylic substrate to Pd(0), generating a π-allyl Pd complex. A base deprotonates the nucleophile, which then attacks the π-allyl complex in a stereocontrolled fashion, followed by product release and catalyst regeneration."}
